US07985755B2
[4-(2,4-Diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]-p-tolylmethanone (Example-021).
The amidation of 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (50 mg; 0.18 mmol) was carried out using p-toluoyl chloride (57 mg; 0.37 mmol) via Method AA to yield 93 mg. (64% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.35 (t, J=8.0 Hz, 1H), 7.25 (m, 4H), 7.2 (br s, 2H), 6.77 (d, J=8.0 Hz, 1H), 6.54 (d, J=8.0 Hz, 1H), 5.94 (br s, 2H), 4.53 (br s, 1H), 4.03 (d, J=6.0 Hz, 2H), 3.67 (br s, 1H), 3.07 (br s, 1H), 2.844 (br s, 1H), 2.34 (s, 3H), 2.18 (m, 1H), 1.82 (m, 2H), 1.29 (m, 2H). MS m/z (ESI) 392 (M+H)+.

reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.18 mmol, 50 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | p-toluoyl chloride | 0.37 mmol, 57 mg | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | [4-(2,4-Diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]-p-tolylmethanone | 64% yield | NC1=NC2=CC=CC(=C2C(=N1)N)OCC1CCN(CC1)C(=O)C1=CC=C(C=C1)C | C22H25N5O2
